US07115767B2
To 8-Methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid methyl ester (660 mg, 3.0 mmol) in dichloromethane (3.0 mL) was added BBr3 (1 M, 3.0 mL, 3.0 mmol) at −78° C. The mixture was stirred for 3 hour and then worked up to give 8-hydroxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid (470 mg, 2.3 mmol, 77%).

reactant | 8-Methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid methyl ester | 3.0 mmol, 660 mg | COC(=O)C1CC2=C(C=CC=C2CC1)OC | C13H16O3
reactant | BBr3 | 3.0 mmol, 1 M, 3.0 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | 8-hydroxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid | 2.3 mmol, 470 mg, 77% | OC=1C=CC=C2CCC(CC12)C(=O)O | C11H12O3
